US07737166B2
4-Cyano-N,N,5-trimethyl-7-[(3S)-3-methyl-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide (#159)
A dimethyl sulfoxide (1 ml) solution of tert-butyl methyl[(3S)-3-methylpyrrolidin-3-yl]carbamate (I-348) (318 mg, 1.48 mmol) and triethylamine (241 μl, 1.73 mmol) was added to a dimethyl sulfoxide (6 ml) solution of 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-114) (400 mg, 1.24 mmol) stirred in an oil bath at 150° C., followed by stirring in an oil bath at 150° C. for 30 minutes. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in ethyl acetate, and washed with water and saturated brine. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, and the residue obtained by concentration was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=1:1→1:2, v/v). The obtained yellow foamy substance was dissolved in dichloromethane (3 ml), and with cooling with ice, trifluoroacetic acid (6 ml) was added, followed by stirring at room temperature for 5 hours. The reaction liquid was concentrated under reduced pressure, then an aqueous saturated sodium hydrogencarbonate solution and water were added, followed by extraction with chloroform. After drying over anhydrous sodium sulfate, the insoluble matter was separated by filtration, the residue obtained by concentration was purified by preparative TLC (eluent, chloroform:methanol=10:1, v/v), and the obtained eluate was recrystallized from isopropyl ether to obtain the entitled compound (109 mg, 21%) as a pale yellow solid.

reactant | tert-butyl methyl[(3S)-3-methylpyrrolidin-3-yl]carbamate | 1.48 mmol, 318 mg | CN(C(OC(C)(C)C)=O)[C@@]1(CNCC1)C | C11H22N2O2
reactant | triethylamine | 1.73 mmol, 241 μl | C(C)N(CC)CC | C6H15N
reactant | 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 1.24 mmol, 400 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C18H14FN3O2
solvent | dimethyl sulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 4-Cyano-N,N,5-trimethyl-7-[(3S)-3-methyl-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide | 109 mg, 21% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@](CC2)(NC)C)C2=CC=CC=C2)C | C24H27N5O2
